US05578592
p-Methoxybenzyl (6R,7R)-1,1-dioxo-7-phenylacetamido-3-(trifluoromethanesulphonyloxy)ceph-3-em-4-carboxylate
A mixture of p-methoxybenzyl(1S,6R,7R)-1-oxo-7-phenylacetamido-3-(trifluoro-methanesulphonyloxy)ceph-3-em-4-carboxylate (767 mg, 1.27 mmol) and m-chloroperbenzoic acid (939 mg, 3.81 mmol) in chloroform (60 ml) was heated to reflux. After refluxing for 7 hours the mixture was chromatographed to give the title compound (560 mg, 71%); νmax (KBr) 1819, 1740, 1697 cm-1 ; δH (CDCl3) 3.60 (2H, m), 3.81 (3H, s), 3.87 (1H, d, J 18.1 Hz), 4.17 (1H, d, J 18.1 Hz), 4.53 (1H, d, J 4.9), 5.20 (1H, d, J 11.8 Hz), 5.37 (1H, d, J 11.8 Hz), 6.08 (1H, dd, J 4.9, 9.9 Hz), 6.55 (1H, d, J 9.8 Hz), 6.89 (2H, d, J 8.7 Hz), 7.18-7.37 (7H, m).

reactant | p-methoxybenzyl(1S,6R,7R)-1-oxo-7-phenylacetamido-3-(trifluoro-methanesulphonyloxy)ceph-3-em-4-carboxylate | 1.27 mmol, 767 mg | O=[S@]1CC(=C(N2[C@H]1[C@@H](C2=O)NC(CC2=CC=CC=C2)=O)C(=O)OCC2=CC=C(C=C2)OC)OS(=O)(=O)C(F)(F)F | C24H21F3N2O9S2
reactant | m-chloroperbenzoic acid | 3.81 mmol, 939 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | p-Methoxybenzyl (6R,7R)-1,1-dioxo-7-phenylacetamido-3-(trifluoromethanesulphonyloxy)ceph-3-em-4-carboxylate | 560 mg, 71% | O=S1(CC(=C(N2[C@H]1[C@@H](C2=O)NC(CC2=CC=CC=C2)=O)C(=O)OCC2=CC=C(C=C2)OC)OS(=O)(=O)C(F)(F)F)=O | C24H21F3N2O10S2
